US07846929B2
To a solution of 4-(2-aminoethyl)morpholine (0.5 g) in dichloromethane (5 ml) at 0° C. was added methane sulphonyl chloride (0.33 ml) and triethylamine (0.59 ml) The reaction mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with dichloromethane, the combined organics washed with brine, dried (MgSO4) and the solvents removed in vacuo to give a crude residue which was purified by flash chromatography to yield N-(2-morpholin-4-yl-ethyl)-methanesulfonamide (596 mg).

reactant | 4-(2-aminoethyl)morpholine | 0.5 g | NCCN1CCOCC1 | C6H14N2O
reactant | methane sulphonyl chloride | 0.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.59 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(2-morpholin-4-yl-ethyl)-methanesulfonamide | 596 mg | N1(CCOCC1)CCNS(=O)(=O)C | C7H16N2O3S
